US06251936B1
[9-Bromo-4-(4-methoxy-3,5-dimethylphenyl)-3-methylnaphtho[2,3-b]thien-2-yl]methyl acetate
A solution of 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-anisole (2.0 g, 4.7 mmol), sulfuryl chloride (0.42 mL, 5.3 mmol), diisopropylethylamine (0.90 mL, 5.2 mmol), and anhydrous methylene chloride (24 mL) was stirred at 0° C. for approximately 2 h. The crude reaction mixture was then diluted with diethyl ether, washed twice with water, once with brine, and then dried (Na2SO4). Concentration under reduced pressure gave a residue, which was immediately treated with sodium acetate (1.2 g, 14.6 mmol) and N,N-dimethylformamide (16.8 mL). After 24 h the reaction mixture was diluted with diethyl ether, washed three times with water, once with brine, and then dried (Na2SO4). Concentration under reduced pressure gave a residue, which was chromatographed with hexane/ethyl acetate to give the title compound as a yellow foam (0.36 g, 27%): (DMSO-d6): δ8.41 (s, 1H), 8.21 (d, J=9 Hz, 1H), 7.68 (ddd, J=2, 6, 8 Hz, 1H), 7.57-7.45 (m, 2H), 7.05 (s, 2H), 3.78 (s, 3H), 2.30 (s, 6H), 2.08 (s, 3H), 1.68 (s, 3H); MS(EI): [M+], 1 bromine isotope pattern, 482/484; Anal. Calc. for C25H23BrO3S: C, 62.11; H, 4.80; N, 0.00. Found: C, 61.86; H, 4.75; N, 0.04.

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-anisole | 4.7 mmol, 2.0 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C)OC)C | C23H21BrOS
reactant | sulfuryl chloride | 5.3 mmol, 0.42 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | diisopropylethylamine | 5.2 mmol, 0.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium acetate | 14.6 mmol, 1.2 g | C(C)(=O)[O-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 16.8 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 24 mL | C(Cl)Cl | CH2Cl2
product | [9-Bromo-4-(4-methoxy-3,5-dimethylphenyl)-3-methylnaphtho[2,3-b]thien-2-yl]methyl acetate | 0.36 g, 27% | C(C)(=O)OCC1=C(C2=C(S1)C(=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C)OC)C)Br)C | C25H23BrO3S
